US07781431B2
Step 4: 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylic acid
A solution (0.07 M) of ethyl 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate in THF/MeOH (1:1) was treated with aqueous NaOH (2 N solution, 4 eq.). The mixture was heated to reflux for 6 hours. After cooling down, the reaction was concentrated and acidified to pH 1 with aqueous HCl (6 N). The resulting mixture was dissolved with DMSO and purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 19×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.1% TFA; B: MeCN+0.1% TFA; linear from 95% A to 5% A in 10 min) to afford the title compound (54%) as a solid.

reactant | ethyl 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate | 0.07 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)SC(=C2)C(=O)OCC | C21H23NO2S
reactant | NaOH | 2 N, 4 eq. | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylic acid | 54% | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)SC(=C2)C(=O)O | C19H19NO2S
